US07147858B2
Preparation of N-FMOC-(S)-2-amino-3-furylpropionic acid
(S)-2-amino-3-furylpropionic acid trifluroacetic acid salt (0.47 g) was dissolved in 30 mL of 10% Na2CO3 and 5 mL of dioxane and was cooled to 0 C. A solution of FMOC—Cl (0.53 g) in 10 mL was added dropwise. The mixture was then stirred for 15 min. at 0 C. and 2 hr at room temperature. The mixture was diluted with H2O, extracted with diethyl ether, and acidified with citric acid. The mixture was filtered and washed with H2O until neutral. The solid was then dissolved in ethylacetate, dried over Na2SO4, concentrated in vacuo to give the product as a white foam.

reactant | (S)-2-amino-3-furylpropionic acid trifluroacetic acid salt | 0.47 g | FC(C(=O)O)(F)F.NC=1OC=CC1[C@@H](C(=O)O)C
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | FMOC—Cl | 0.53 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | O | H2O
product | N-FMOC-(S)-2-amino-3-furylpropionic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC=1OC=CC1[C@@H](C(=O)O)C | C22H19NO5
